US09163003B2
Ethyl 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetate
(4-Methoxyphenyl)(piperidin-4-yl)methanone hydrochloride (524 mg, 2.05 mmol) was stirred at room temperature with triethylamine (0.657 mL, 477 mg, 4.71 mmol) in acetonitrile (80 mL). A solution of ethyl 2-(3-bromo-2-oxopyrrolidin-1-yl)acetate (513 mg, 2.05 mmol) in acetonitrile (20 mL) was added to the mix. The reaction was stirred 3 hours at 40° C. and then overnight at 50° C. After 24 hours the reaction was not complete and the reaction was stirred an additional 48 hours at 70° C. then allowed to cool to room temperature. The solvents were removed in vacuo. The crude orange solid was eluted through a silica gel column with a 0 to 10% methanol/dichloromethane gradient to afford the title racemic compound (730 mg, 87% yield, 95% purity) as a thick amber oil. MS (ESI) [m/e, (M+H)+]=389.5. 1H NMR (400 MHz, chloroform-d) δ ppm 7.90-7.95 (m, 2H), 6.91-6.96 (m, 2H), 4.17-4.24 (m, 2H), 3.95-4.17 (m, 2H), 3.88 (s, 3H), 3.56-3.64 (m, 1H), 3.36-3.50 (m, 2H), 3.18-3.29 (m, 1H), 3.04-3.13 (m, 1H), 2.93-3.04 (m, 2H), 2.41-2.56 (m, 1H), 2.20-2.35 (m, 1H), 2.04-2.19 (m, 1H), 1.80-1.95 (m, 4H), 1.26-1.32 (m, 3H).

reactant | (4-Methoxyphenyl)(piperidin-4-yl)methanone hydrochloride | 2.05 mmol, 524 mg | Cl.COC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | triethylamine | 4.71 mmol, 0.657 mL, 477 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-(3-bromo-2-oxopyrrolidin-1-yl)acetate | 2.05 mmol, 513 mg | BrC1C(N(CC1)CC(=O)OCC)=O | C8H12BrNO3
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetate | 87% yield | COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC(=O)OCC)=O)C=C1 | C21H28N2O5
